US05146003
The solution was cooled to -78° C., and a solution of 0.3604 g (1.62 mmol) of 2-cyclopentadecenone in 1 ml of toluene was added thereto dropwise, followed by stirring at -78° C. for 17 hours. To the reaction mixture was added 4 ml of a 1:1 (by volume) mixture of aqueous ammonia and a saturated ammonium chloride aqueous solution, followed by heating up to room temperature. The aqueous layer was removed, and the organic layer was washed successively with a 1:1 (by volume) mixture of aqueous ammonia and a saturated ammonium chloride aqueous solution, a 5% hydrochloric acid aqueous solution, a saturated sodium chloride aqueous solution, and a saturated sodium carbonate aqueous solution, and dried over sodium sulfate. The toluene was removed by distillation, and the residue was purified by silica gel column chromatography using hexane/ethyl acetate (40:1 by volume) as an eluent and then distilled under reduced pressure to obtain an optically active muscone. The yield, optical rotation, optical purity, and stereochemistry of the product were determined, and the results obtained are shown in Table 1.

reactant | 2-cyclopentadecenone | 1.62 mmol, 0.3604 g | C1(C=CCCCCCCCCCCCC1)=O | C15H26O
reactant | ammonia | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | muscone | CC1CCCCCCCCCCCCC(=O)C1 | C16H30O
